US06869954B2
1) Preparation of 2-(4-chlorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 4-chlorobenzyl chloride were reacted to yield the title compound as yellow needles (yield: 97.6%).

reactant | 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(NN1)=O)C(=O)OC | C13H11FN2O4
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 2-(4-chlorobenzyl)-6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | yield: 97.6% | ClC1=CC=C(CN2N=C(C=C(C2=O)C(=O)OC)C2=CC(=C(C=C2)OC)F)C=C1 | C20H16ClFN2O4
